US08710043B2
Step 3. Ethyl 5-(benzyloxy)-6-chloronicotinate
To a stirred mixture of ethyl 6-chloro-5-hydroxynicotinate (2 g, 0.01 mol) in Toluene (50.0 mL) were added K2CO3 (2.76 g, 0.02 mol, Rankem, India) and benzyl bromide (2 g, 0.0012 mol). The reaction mixture was stirred for 2 h at room temperature. After completion of the reaction (monitored by TLC, 20% EtOAc in hexane), the reaction mixture was quenched with water (50 mL), extracted with EtOAc (50 mL×3). The combined organic layers were dried over anhydrous sodium sulfate and purified by column chromatography, silica gel (60-120 mesh) using 12-16% EtOAc in petroleum ether as the eluent to give the title compound. MS (ESI, positive ion) m/z: 292.2 (M+H).

reactant | ethyl 6-chloro-5-hydroxynicotinate | 0.01 mol, 2 g | ClC1=NC=C(C(=O)OCC)C=C1O | C8H8ClNO3
reactant | K2CO3 | 0.02 mol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 0.0012 mol, 2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | Toluene | 50.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | Ethyl 5-(benzyloxy)-6-chloronicotinate | C(C1=CC=CC=C1)OC=1C(=NC=C(C(=O)OCC)C1)Cl | C15H14ClNO3
